US04021432
30 parts of 1,2,2,6,6,-pentamethylpiperidin-4-ol were dissolved in 250 parts of benzene and 4 parts of sodium added. The solution was heated overnight at reflux temperature and then cooled. 38 parts of 2-phenoxyethanol tosylate were added dropwise and the solution heated at reflux for 5 hours. On cooling the precipitate was filtered off and the filtrate evaporated in vacuo. Treatment of the residue with dilute hydrochloric acid and then basification with dilute sodium hydroxide to a pH 10 was followed by extraction with ether. Evaporation afforded a pale yellow oil which was chromatographed on alumina to give 4-(2'-phenoxyethoxy)-1,2,2,6,6-pentamethylpiperidine as a colourless oil which gave the following elemental analysis by weight:

reactant | 1,2,2,6,6,-pentamethylpiperidin-4-ol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | 2-phenoxyethanol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOC1=CC=CC=C1 | C15H16O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | sodium | [Na] | Na
product | 4-(2'-phenoxyethoxy)-1,2,2,6,6-pentamethylpiperidine | O(C1=CC=CC=C1)CCOC1CC(N(C(C1)(C)C)C)(C)C | C18H29NO2
